US07354932B2
To a stirred solution of 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione (154 mg, 0.441 mmol), diisopropylethylamine (0.15 mL, 0.861 mmol) and potassium iodide (15 mg, 0.090 mmol) in acetonitrile (2.5 mL) was added 2-chloromethyl-5,6-dimethyl-1H-benzimidazole (prepared according to the procedures described in Bridger et al. U.S. patent application U.S. Ser. No. 09/535,314) (77 mg, 0.426 mmol) and the mixture heated at 60° C. for 18 hours. The mixture was then concentrated and the residue diluted with CH2Cl2 (30 mL). The solution was washed with saturated aqueous NaHCO3 (1×20 mL) and brine (2×15 mL). The combined aqueous phase was extracted with CH2Cl2 (1×15 mL). The combined organic phase was dried (Na2SO4), filtered and concentrated under reduced pressure to give a crude brown foam. The foam was purified by flash chromatography (1.75 cm ID, 12 g silica, 50:1:1 CH2Cl2: MeOH: NH4OH) to give pure 2-{4-[(5,6-dimethyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione (60 mg, 28%). 1H NMR (CDCl3) δ 1.34-1.51 (m, 2H), 1.53-1.73 (m, 3H), 1.81-2.06 (m, 2H), 2.12-2.22 (m, 1H), 2.34 (s, 6H), 2.55-2.89 (m, 4H), 3.51 (t, 2H, J=7.3 Hz), 3.93-4.08 (m, 3H), 7.1 (dd, 1H, J=7.5, 4.8 Hz), 7.31-7.39 (m, 3H), 7.63-7.67 (m, 2H), 7.72-7.77 (m, 2H), 8.58 (d, 1H, J=4.0 Hz).

reactant | 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione | 0.441 mmol, 154 mg | N1=CC=CC=2CCCC(C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | diisopropylethylamine | 0.861 mmol, 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 0.090 mmol, 15 mg | [I-].[K+]
reactant | 2-chloromethyl-5,6-dimethyl-1H-benzimidazole | ClCC1=NC2=C(N1)C=C(C(=C2)C)C | C10H11ClN2
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 2-{4-[(5,6-dimethyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | 60 mg, 28% | CC1=CC2=C(NC(=N2)CN(CCCCN2C(C3=CC=CC=C3C2=O)=O)C2CCCC=3C=CC=NC23)C=C1C | C31H33N5O2
